US07399759B2
2-[6-(2-Phenylethylsulfinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one
2-[6-(Phenylethylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one (0.18 g, 0.48 mmol) was dissolved in chloroform (30 ml), and a solution of 3-chloroperbenzoic acid (ca. 77%, 0.11 g, 0.48 mmol) in chloroform (10 ml) was added dropwise thereto. The reaction mixture was stirred at room temperature for 1 hr. The solvent was evaporated, and the residue was recrystallized from ethanol to give the titled compound (0.14 g, 75%) as pale yellow crystals.

reactant | 2-[6-(Phenylethylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.48 mmol, 0.18 g | C1(=CC=CC=C1)CCSC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C21H16N2OS2
reactant | 3-chloroperbenzoic acid | 0.48 mmol, 0.11 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[6-(2-Phenylethylsulfinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.14 g, 75% | C1(=CC=CC=C1)CCS(=O)C1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C21H16N2O2S2
